US04405530
E. 2-Fluoromethyl-2-phthalimido-6-hydroxy-hexanenitrile
A solution of 2-fluoromethyl-2-phthalimido-6-benzyloxy-hexanenitrile (15.5 g, 40.8 mmol) and trimethylsilyliodide (13 ml, 2.2 equivalents) in dry dichloromethane (100 ml) is stirred at room temperature under nitrogen overnight. After removing the solvent under vacuum, the residue is dissolved in dry chloroform, triethylamine (17 ml, 3 equivalents) is added, and the mixture is refluxed for 30 minutes. Upon cooling, the solution is stirred with 2 N HCl (250 ml) for 15 minutes, the phases are separated, and the organic layer is washed with sodium bicarbonate and with water. After evaporation, the residue is dissolved in THF and water (20 ml). Drops of 6 N HCl are added, and the resulting mixture is stirred for several minutes. The solvent is removed by evaporation, and the residue obtained is dissolved in chloroform, washed with water, and dried. Removal of solvent gives the crude title compound as an oil, (12 g). Chromatography on silica (300 g, eluent:ethylacetate) gives the pure material (9.0 g).

reactant | 2-fluoromethyl-2-phthalimido-6-benzyloxy-hexanenitrile | 40.8 mmol, 15.5 g | FCC(C#N)(CCCCOCC1=CC=CC=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C22H21FN2O3
reactant | trimethylsilyliodide | 13 ml, 2.2 equivalents | C[Si](C)(C)I | C3H9ISi
reactant | triethylamine | 17 ml, 3 equivalents | C(C)N(CC)CC | C6H15N
reactant | HCl | 2 N, 250 ml | Cl | ClH
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-Fluoromethyl-2-phthalimido-6-hydroxy-hexanenitrile | 9.0 g | FCC(C#N)(CCCCO)N1C(C=2C(C1=O)=CC=CC2)=O | C15H15FN2O3
